US07109186B2
Compound 857: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methyl-(4-trifluoromethyl-benzyl)-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methyl-N-(4-trifluoromethylbenzyl)-acetamide (0.50 g, 1.45 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.31 g (64% yield) of the title compound as white crystals; mp 126–128° C. (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 3.07 (3H, s, NCH3), 3.13 (3H, s, NCH3), 4.18 (2H, s, NCH2), 4.74 (2H, s, NCH2), 7.41 (2H, d, J=8.1 Hz, aromatics), 7.64 (2H, d, J=8.1 Hz, aromatics), 10.56 (1H, broad, OH). Anal. Calcd for C15H15F3N2O3: C, 54.88; H, 4.61; N, 8.53. Found: C, 54.93; H, 4.57; N, 8.44.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methyl-N-(4-trifluoromethylbenzyl)-acetamide | 1.45 mmol, 0.50 g | CC1(OC(C(O1)=CC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)C)=O)C | C16H16F3NO4
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methyl-(4-trifluoromethyl-benzyl)-amide | 0.31 g, 64% yield | CN(C(=O)C=1CN(C(C1O)=O)C)CC1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O3
